datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[O:15]([O:16][H:18])[H:17]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:17])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[O:15][O:16][H:18],41.84
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11][C:12](=[S:13])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11](=[C:10]([H:14])[H:15])[C:12](=[S:13])[H:16],60.668
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30],71.128
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[H:11]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][H:11],26.9868
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4][c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[H:9].[O:14]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([O:14])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[H:9],0.0
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[S:3][C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[H:13]>>[C:0](=[C:1][C:2]([H:7])([H:8])[H:9])([H:5])[H:6].[S:3]([C:4]([H:10])([H:11])[H:12])[H:13],25.7316
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:25])([H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:11])([H:9])[H:10],2.17568
[O:0][H:1].[c:2]1([H:14])[c:3]([H:15])[c:4]([H:16])[c:5](-[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]2[H:21])[c:12]([H:22])[c:13]1[H:23]>>[O:0]([H:1])[H:15].[c:2]1([H:14])[c:3][c:4]([H:16])[c:5](-[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]2[H:21])[c:12]([H:22])[c:13]1[H:23],6.40214
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:5])([H:6])[H:7].[O:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:6])[H:7].[H:5][O:13],24.618656
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]1[C:7](=[C:8]=[C:9]([H:17])[H:18])[H:16])([H:10])[H:11]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]1[C:7]=[C:8]=[C:9]([H:17])[H:18])([H:10])[H:11].[H:16],286.093552
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:21])[H:22])[H:20])=[C:14]([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:17])[H:18])[H:19])([C:12](=[C:13]([H:21])[H:22])[H:20])[C:14]([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])[H:4],44.9362
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:8])[O:16][O:17])([H:5])([H:6])[H:7],-2.244716
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13],37.2376
[C:0](=[C:1]([O:2][C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1][H:6])([H:4])[H:5].[O:2]([C:3]([H:7])([H:8])[H:9])[H:10],127.023
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])([H:29])([H:30])[H:31]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:29])([H:30])[H:31])([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32],31.7984
[O:0]([C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])[H:6].[O:12]>>[H:6][O:12].[O:0][C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11],19.593672
